US05051413
Hydrolysis of E-2-formylamino-4-propyl-5-dimethylphosphono-3-pentenoic acidethyl ester in a manner analogous to that described in Example 11 yields E-2-amino-4-propyl-5-phosphono-3-pentenoic acid, m.p. 193° (H2O).

reactant | E-2-formylamino-4-propyl-5-dimethylphosphono-3-pentenoic acidethyl ester | C(C)OC(C(\C=C(\CP(=O)(OC)OC)/CCC)NC=O)=O | C13H24NO6P
solvent | H2O | O | H2O
product | E-2-amino-4-propyl-5-phosphono-3-pentenoic acid | NC(C(=O)O)\C=C(\CP(=O)(O)O)/CCC | C8H16NO5P
